US08017611B2
A slurry of benzotriazol-1-yl-[bis(dimethylamino)methylene]oxonium tetrafluoroborate (149 mg) was added to methylamine (0.892 ml, 2M in methanol) and (2S,4R)-4-[4-[6-amino-5-(1,3-benzoxazol-2-yl)-3-pyridyl]pyrazol-1-yl]-1-tert-butoxycarbonyl-pyrrolidine-2-carboxylic acid (175 mg) and triethylamine (0.883 ml) dissolved in DMF (8 ml) over a period of 10 minutes. The resulting solution was stirred at 25° C. overnight. The mixture was evaporated and a saturated solution of NaHCO3 (50 ml) was added to the mixture, extracted with methylene chloride (50 ml×2), dried over Magnesium sulphate, filtered and evaporated in reduce pressure. The reaction mixture was purified by preparative HPLC using a Waters X-Terra reverse-phase column (C-18, 5 microns silica, 19 mm diameter, 100 mm length, flow rate of 40 ml/minute) and decreasingly polar mixtures of water (containing 0.2% ammonium carbonate) and acetonitrile as eluent. The fractions containing the desired compound were evaporated to dryness to afford (2S,4R)-tert-butyl 4-[4-[6-amino-5-(1,3-benzoxazol-2-yl)-3-pyridyl]pyrazol-1-yl]-2-(methylcarbamoyl)pyrrolidine-1-carboxylate (60 mg) as a solid. Retention time: 3.44 min Mass spectrum: M+H+ 504

reactant | benzotriazol-1-yl-[bis(dimethylamino)methylene]oxonium tetrafluoroborate | 149 mg | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)[O+]=C(N(C)C)N(C)C
reactant | methylamine | 2M, 0.892 ml | CN | CH5N
reactant | (2S,4R)-4-[4-[6-amino-5-(1,3-benzoxazol-2-yl)-3-pyridyl]pyrazol-1-yl]-1-tert-butoxycarbonyl-pyrrolidine-2-carboxylic acid | 175 mg | NC1=C(C=C(C=N1)C=1C=NN(C1)[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)O)C=1OC2=C(N1)C=CC=C2 | C25H26N6O5
reactant | triethylamine | 0.883 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | (2S,4R)-tert-butyl 4-[4-[6-amino-5-(1,3-benzoxazol-2-yl)-3-pyridyl]pyrazol-1-yl]-2-(methylcarbamoyl)pyrrolidine-1-carboxylate | 60 mg | NC1=C(C=C(C=N1)C=1C=NN(C1)[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(NC)=O)C=1OC2=C(N1)C=CC=C2 | C26H29N7O4
